US04962224
Step (6) Preparation of [[[2-Fluoro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]thioxomethyl]methylamino]acetamide
1-Hydroxybenzotriazole (0.84 g, 1.5 eq) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.96 g, 1.2 eq) were added to a stirred solution of N-[[2-fluoro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]thioxomethyl]-N-methylglycine (1.50 g, 4.15 mmol) in anhydrous DMF (15 mL) at room temperature under a dry nitrogen atmosphere. After 13/4 hours, a saturated solution of ammonia in tetrahydrofuran (100 mL) was added to the reaction mixture at room temperature. After 1 hour, the reaction was cooled to 0° C. and ammonia gas was bubbled directly into the reaction mixture for 15 minutes. While still cool, the reaction mixture was filtered and the solid was washed with THF (2×10 mL). The solvent was removed from the filtrate and the residue was diluted with water (500 mL). The aqueous phase was extracted with ether (6×100 mL). The extracts were combined and preabsorbed onto silica gel. The absorbate was flash chromatographed (19:1 chloroform:methanol, silica) and the resulting product was re-flash chromatographed (chloroform to 49:1 chloroform:methanol, silica) to provide the title compound as a light yellow solid (0.30 g, 20%), m.p. 222°-224° C.

reactant | 1-Hydroxybenzotriazole | 0.84 g, 1.5 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.96 g, 1.2 eq | Cl.CN(CCCN=C=NCC)C
reactant | N-[[2-fluoro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]thioxomethyl]-N-methylglycine | 4.15 mmol, 1.50 g | FC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(N(CC(=O)O)C)=S | C16H13F4NO3S
reactant | ammonia | N | H3N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | [[[2-Fluoro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]thioxomethyl]methylamino]acetamide | 0.30 g, 20% | FC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=S)N(C)CC(=O)N | C16H14F4N2O2S
